US09238640B2
Preparation of 2-(4-(4-Isobutyrylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.150 g, 0.40 mmol) in CH2Cl2 (10 mL) was added Et3N (0.08 mL, 0.60 mmol) and isobutyryl chloride (0.03 mL, 0.36 mmol). The resulting solution was stirred at room temperature for 1 hour. The solution was concentrated in vacuo and the residue was purified by flash chromatography on silica gel, eluting with 2% to 10% of MeOH/CH2Cl2. The solid was further purified by flash chromatography on silica gel, eluting with 0% to 5% of MeOH/EtOAc, to afford the title compound (0.080 g, 50%): 1H NMR (300 MHz, DMSO-d6): δ 11.78 (s, 1H), 8.11 (d, J=9.0 Hz, 2H), 7.03 (d, J=9.1 Hz, 2H), 6.68 (s, 1H), 6.47 (s, 1H), 3.76-3.92 (m, 6H), 3.52-3.71 (m, 4H), 3.16-3.44 (m, 4H), 2.83-3.00 (m, 1H), 1.02 (d, J=6.8 Hz, 6H); APCI MS m/z 437 [M+H]+.

reactant | 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.40 mmol, 0.150 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
reactant | Et3N | 0.60 mmol, 0.08 mL | CCN(CC)CC | C6H15N
reactant | isobutyryl chloride | 0.36 mmol, 0.03 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-Isobutyrylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.080 g, 50% | C(C(C)C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C24H28N4O4
